US07858632B2
4-Isopropyl-3-methoxy-phenylamine HCl salt (3.1 g, 19 mmol) was cooled to −5 C (Ice/Methanol bath), and a mixture of 8 ml water and 5 ml concentrated. HCl was added dropwise. The reaction mixture was stirred for five minutes, and sodium nitrite (1.42 g, 21 mmol) disolved in 3 ml water was added dropwise over 10 minutes. The reaction mixture was stirred for 45 min, then sodium acetate (1.3 g, 16 mmol) was added. In a separate flask, to a stirring mixture of ethyl alpha-acetoacetate (3.26 g, 21 mmol) in 15 ml absolute ethanol was added KOH (1.2 g, 21 mmol) dissolved in 3 ml water and then added ice (10 g). This mixture was added to the diazonium salt, and the reaction mixture was stirred at zero degrees C for 3.5 hours. The reaction mixture was stored at −10 C for 16 hours, then extracted with EtOAC. The combined organic layers were washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure to a liquid residue. In a separate flask, mixed 100 ml EtOH was mixed slowly with 22 ml acetyl chloride, with cooling in an ice bath. The EtOH/acetyl chloride solution was heated to 70 degrees C, and added the residue was added via pipette over 10 min. The reaction mixture was heated to reflux for 2.5 hours, cooled, evaporated under reduced pressure to give a slurry; diluted with water (100 ml) and filtered. The solid was washed with water. The solid was triturated with hexanes to give 5-Isopropyl-6-methoxy-3-methyl-1H-indole-2-carboxylic acid ethyl ester (1.7 g, 34% ) as a solid.

reactant | 4-Isopropyl-3-methoxy-phenylamine HCl salt | 19 mmol, 3.1 g | Cl.C(C)(C)C1=C(C=C(C=C1)N)OC
reactant | sodium nitrite | 21 mmol, 1.42 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 16 mmol, 1.3 g | C(C)(=O)[O-].[Na+]
reactant | ethyl alpha-acetoacetate | 21 mmol, 3.26 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | KOH | 21 mmol, 1.2 g | [OH-].[K+]
solvent | water | 3 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | water | 8 ml | O | H2O
product | 5-Isopropyl-6-methoxy-3-methyl-1H-indole-2-carboxylic acid ethyl ester | 1.7 g, 34% | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1C)C(C)C)OC | C16H21NO3
